US04755594
(1-Thien-2-ylcyclobutyl)methylamine is prepared from thien-2-ylacetonitrile (3.70 g, 30 mmol), 1,3-dibromopropane (9.09 g, 45 mmol), as described in Example 1 in 55% yield.

reactant | thien-2-ylacetonitrile | 30 mmol, 3.70 g | S1C(=CC=C1)CC#N | C6H5NS
reactant | 1,3-dibromopropane | 45 mmol, 9.09 g | BrCCCBr | C3H6Br2
product | (1-Thien-2-ylcyclobutyl)methylamine | 55% yield | S1C(=CC=C1)C1(CCC1)CN | C9H13NS
